US04061761
2-sec.-Butylimino-4-(4-chloro-3-sulfamoylphenyl)-3-methyl-1,3-thiazolidine-4-ol-hydrobromide
4.7 g of 2-bromo-4'-chloro-3'-sulfamoylacetophenone and 2.19 g of 1-sec.-butyl-3-methylthiourea were reacted according to the prescription given in Example 23 and the crystals were filtered off.

reactant | 2-bromo-4'-chloro-3'-sulfamoylacetophenone | 4.7 g | BrCC(=O)C1=CC(=C(C=C1)Cl)S(N)(=O)=O | C8H7BrClNO3S
reactant | 1-sec.-butyl-3-methylthiourea | 2.19 g | C(C)(CC)NC(=S)NC | C6H14N2S
product | 2-sec.-Butylimino-4-(4-chloro-3-sulfamoylphenyl)-3-methyl-1,3-thiazolidine-4-ol-hydrobromide | Br.C(C)(CC)N=C1SCC(N1C)(O)C1=CC(=C(C=C1)Cl)S(N)(=O)=O | InChI=1S/C14H20ClN3O3S2.BrH/c1-4-9(2)17-13-18(3)14(19,8-22-13)10-5-6-11(15)12(7-10)23(16,20)21;/h5-7,9,19H,4,8H2,1-3H3,(H2,16,20,21);1H
